US07598391B2
{5-[3,3-Bis-(4-methyl-cyclohexyl)-ureido]-[1,3,4]thiadiazol-2-ylsulfanyl}-acetic acid
{5-[3,3-Bis-(4-methyl-cyclohexyl)-ureido]-[1,3,4]thiadiazol-2-ylsulfanyl}-acetic acid ethyl ester prepared from bis-(4-methyl-cyclohexyl)-amine and ethyl-2-[5-amino-1,3,4-thiadiazol-2-yl-thio]acetate as described in general procedures (A) and (B). Hydrolysis using general procedure (F) gave the title compound.

reactant | {5-[3,3-Bis-(4-methyl-cyclohexyl)-ureido]-[1,3,4]thiadiazol-2-ylsulfanyl}-acetic acid ethyl ester | C(C)OC(CSC=1SC(=NN1)NC(=O)N(C1CCC(CC1)C)C1CCC(CC1)C)=O | C21H34N4O3S2
reactant | bis-(4-methyl-cyclohexyl)-amine | CC1CCC(CC1)NC1CCC(CC1)C | C14H27N
reactant | ethyl-2-[5-amino-1,3,4-thiadiazol-2-yl-thio]acetate | C(C)OC(CSC=1SC(=NN1)N)=O | C6H9N3O2S2
product | {5-[3,3-Bis-(4-methyl-cyclohexyl)-ureido]-[1,3,4]thiadiazol-2-ylsulfanyl}-acetic acid | CC1CCC(CC1)N(C(NC1=NN=C(S1)SCC(=O)O)=O)C1CCC(CC1)C | C19H30N4O3S2
